US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (2,8 g), 4-hydroxy-4-(4-methylphenyl)piperidine (2.1 g) and sodium bicarbonate (0.94 g) i mixture of dimethylformamide (60 cc) and tetrahydrofuran (50 cc). The mixture is heated for 5 hours at a temperature of about 100° C. then cooled to a temperature of about 20° C. Stirring is maintained for 15 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with a mixture of dichloromethane and methanol (95-5 vol) as eluant, 2-{3-[4-(4-methylphenyl)-4-hydroxypiperidino ]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (1 g) is obtained, in the form of 1,1-dioxide (1 g) is obtained, in the form of the hydrochloride of m.p. 218° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 2,8 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | 4-hydroxy-4-(4-methylphenyl)piperidine | 2.1 g | OC1(CCNCC1)C1=CC=C(C=C1)C | C12H17NO
reactant | sodium bicarbonate | 0.94 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
product | 2-{3-[4-(4-methylphenyl)-4-hydroxypiperidino ]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 1 g | CC1=CC=C(C=C1)C1(CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)O | C25H28N2O3S
